US09260439B2
Step 1: Preparation of (2R)-4-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)-2-(ethoxycarbonyl)-2-methylbutanoic acid
In a 1 L round bottom flask, diethyl[2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)ethyl](methyl)propanedioate (Banerjee, S.; Wiggins, W. J.; Geoghegan, J. L.; Anthony, C. T.; Woltering, E. A.; Masterson, D. S. Org. Biomol. Chem., 2013, 11, 6307-6319) (9.56 g, 27.5 mmol) was suspended into a 0.1 M phosphate buffer at pH 7.4 (784 mL) and ethanol (16 mL). Pig liver esterase (0.90 mL, technical grade, 2.8 kilounits/mL) was then added and the reaction was stirred rapidly at room temperature for 17 h. The mixture was sonicated, additional pig liver esterase was added (0.1 mL) and the pH was adjusted to −7-8 with 1.0 M aqueous NaOH and stirring was continued for 7 h. Additional pig liver esterase (0.05 mL) was added, the pH was adjusted to −7-8 with 1.0 M aqueous NaOH and stirring was continued for 16 h. The mixture was transferred to a separatory funnel and extracted with tert-butylmethylether (2×300 mL). The aqueous phase was acidified to pH 1 with concentrated HCl and extracted with tert-butylmethylether (3×300 mL) and EtOAc (3×300 mL). The combined organic phases were dried over MgSO4, filtered, washed with brine, dried again over MgSO4, filtered and concentrated. The crude product was purified via silica gel chromatography eluting with 15-50% EtOAc/heptanes to give the title compound (6.29 g, 72%) as a white solid whose spectroscopic properties were identical to previous reports.

reactant | diethyl[2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)ethyl](methyl)propanedioate | C(C)OC(C(C(=O)OCC)(C)CCN1C(C2=CC=CC=C2C1=O)=O)=O | C18H21NO6
reactant | phosphate | 0.1 M | P(=O)([O-])([O-])[O-]
reactant | NaOH | 1.0 M | [OH-].[Na+]
reactant | NaOH | 1.0 M | [OH-].[Na+]
solvent | ethanol | 16 mL | C(C)O | C2H6O
product | (2R)-4-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)-2-(ethoxycarbonyl)-2-methylbutanoic acid | 6.29 g, 72% | O=C1N(C(C2=CC=CC=C12)=O)CC[C@@](C(=O)O)(C)C(=O)OCC | C16H17NO6
